US04185016
5.5 mg of 2,3,5,11 a-tetrahydro-9-hydroxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one was dissolved in 0.2 ml of hot methanol and allowed to stand at -20° C. for 3 days. Thus, 3.0 mg of 2,3,5,10,11,11 a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one was obtained as a colorless crystal. Its infrared absorption spectrum just coincided with that of the product of Example 4.

reactant | 2,3,5,11 a-tetrahydro-9-hydroxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one | 5.5 mg | OC1=C(C=CC=2C(N3C(C=NC21)CCC3)=O)C | C13H14N2O2
reactant | methanol | 0.2 ml | CO | CH4O
product | 2,3,5,10,11,11 a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one | 3.0 mg | OC1=C(C=CC=2C(N3C(C(NC21)OC)CCC3)=O)C | C14H18N2O3
